US05498741
Preparation of phenyl phenyl-2,4,6-trimethylbenzoylphosphinate
96.4 g (0.528 mol) of 2,4,6-trimethylbenzoyl chloride and 1.2 g of triethylamine were heated to 115° C. and 65 g (0.264 mol) of monoethyl monophenyl phenylphosphonite were added dropwise in 75 minutes under a nitrogen atmosphere and with vigorous stirring. Ethyl chloride was given off as gas and was condensed in a downstream cold trap. The mixture was then further stirred for 2 hours at 115° C. and simultaneously a relatively strong nitrogen stream was passed through the apparatus. In total, at the end of the reaction 16 g (94% of theory) of ethyl chloride were situated in the cold trap. The excess 2,4,6-trimethylbenzoylchloride was then distilled off at 1 mbar and the residue was distilled with the aid of a thin-film evaporator (bath temperature: 230° C.; 0.3 mbar). 78 g were obtained. The yield was 81% of theory.

reactant | 2,4,6-trimethylbenzoyl chloride | 0.528 mol, 96.4 g | CC1=C(C(=O)Cl)C(=CC(=C1)C)C | C10H11ClO
reactant | monoethyl monophenyl phenylphosphonite | 0.264 mol, 65 g | C1(=CC=CC=C1)P(OCC)OC1=CC=CC=C1 | C14H15O2P
reactant | Ethyl chloride | C(C)Cl | C2H5Cl
reactant | ethyl chloride | 16 g | C(C)Cl | C2H5Cl
solvent | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
product | phenyl phenyl-2,4,6-trimethylbenzoylphosphinate | yield was 81% | C1(=CC=CC=C1)P(OC1=CC=CC=C1)(=O)C(C1=C(C=C(C=C1C)C)C)=O | C22H21O3P
